US07378415B2
To a suspension of sodium hydride (0.033 g. of a 60% dispersion in mineral oil, 0.834 mmol) in 3 mL dimethylformamide was added portionwise 7-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine (0.200 g, 0.726 mmol), and the resulting suspension was stirred at room temperature for 10 minutes. Racemic methanesulfonic acid 1-benzyl-pyrrolidin-3-yl ester (0.259 g., 1.018 mmol) was added dropwise and the reaction mixture was heated to 65° C. for 21 hours. The reaction mixture was then poured into 100 mL water, and extracted three times with 50 mL ethyl acetate. The organic fraction was washed twice with 50 mL 10% aq. hydrogen chloride and once with 50 mL saturated sodium bicarbonate. The organic fraction was then dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography (2%-5% methanol in dichlormethane) to give 0.127 g (0.292 mmol, 40%) of 7-benzenesulfonyl-4-(1-benzyl-pyrrolidin-3-yl)-3,4-dihydro-2H-benzo[1,4]oxazine as a red oil. MS: 474 (M+ACN)+.

reactant | sodium hydride | [H-].[Na+]
reactant | 7-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine | 0.726 mmol, 0.200 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(NCCO2)C=C1 | C14H13NO3S
reactant | Racemic methanesulfonic acid 1-benzyl-pyrrolidin-3-yl ester | 1.018 mmol, 0.259 g | C(C1=CC=CC=C1)N1CC(CC1)OS(=O)(=O)C | C12H17NO3S
reactant | water | 100 mL | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 7-benzenesulfonyl-4-(1-benzyl-pyrrolidin-3-yl)-3,4-dihydro-2H-benzo[1,4]oxazine | 0.292 mmol, 0.127 g, 40% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C2CN(CC2)CC2=CC=CC=C2)C=C1 | C25H26N2O3S
